US05719157
Powdered aluminium chloride (0.21 g) was added to a mixture of 2-amino-5-chloro-3',4'-dimethoxybenzophenone (0.23 g) and methyl cyanoacetate (5 ml), and the resulting mixture was stirred at 100° C. for 2.5 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with hexane/ethyl acetate (4/1, v/v) gave methyl 6-chloro-4-(3,4-dimethoxyphenyl)quinazoline-2-acetate (0.161 g, 55%) which was then recrystallized from isopropyl ether. Colorless needles. mp. 144°-145° C.

reactant | aluminium chloride | 0.21 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-amino-5-chloro-3',4'-dimethoxybenzophenone | 0.23 g | NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C=C1)Cl | C15H14ClNO3
reactant | methyl cyanoacetate | 5 ml | C(#N)CC(=O)OC | C4H5NO2
solvent | water | O | H2O
product | methyl 6-chloro-4-(3,4-dimethoxyphenyl)quinazoline-2-acetate | 0.161 g, 55% | ClC=1C=C2C(=NC(=NC2=CC1)CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C19H17ClN2O4
